US05807859
To a solution of 0.22 g of ethyl 4-ethoxycarbonyloxy-10H-imidazo[1,2-a]indeno[1,2-e]-pyrazine-10,10-dicarboxylate in 20 ml of tetrahydrofuran are added 5.5 ml of 1N hydrochloric acid at a temperature in the region of 20° C. After reacting overnight at the same temperature, the tetrahydrofuran is evaporated off under reduced pressure (15 mmHg; 2 kPa) and the aqueous solution thus obtained is diluted with 5 ml of distilled water. The addition of 10 ml of ethyl acetate causes formation of a cream-coloured precipitate which is filtered off, washed and dried to give 0.15 g of ethyl 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one-10-carboxylate hydrochloride in the form of a cream-coloured solid (NMR spectrum: [200 MHz; (CD3)2SO-d6 ; δ in ppm]: 1.23 (t, J=7.5 Hz, 3H: --CH3 ethyl); from 4.00 to 4.40 (mt, 2H: --OCH2 -ethyl); 5.41 (s, 1H: --CH-- 10); 7.43 and 7.51 (2 broad t, J=8 Hz, 1H each: --H 7 and --H 8); 7.75 and 7.97 (2 broad d, J=8 Hz, 1H each: --H 6 and --H 9); 7.82 and 8.14 (2s, 1H each: --H of the imidazole); 12.95 (mult., 1H: --CONH--)).

reactant | ethyl 4-ethoxycarbonyloxy-10H-imidazo[1,2-a]indeno[1,2-e]-pyrazine-10,10-dicarboxylate | 0.22 g | C(C)OC(=O)OC=1C=2N(C3=C(N1)C=1C=CC=CC1C3(C(=O)OCC)C(=O)[O-])C=CN2
reactant | hydrochloric acid | 1N, 5.5 ml | Cl | ClH
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | ethyl 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one-10-carboxylate hydrochloride | 0.15 g | Cl.C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1C(=O)OCC | InChI=1S/C16H13N3O3.ClH/c1-2-22-16(21)11-9-5-3-4-6-10(9)12-13(11)19-8-7-17-14(19)15(20)18-12;/h3-8,11H,2H2,1H3,(H,18,20);1H
